US08026257B2
To a −78° C. solution of 7-bromo-5-(trifluoromethyl)-1H-indole (8.77 g, 33.2 mmol) in tetrahydrofuran (200 mL), n-BuLi (1.6 M in hexanes, 72.7 mL, 116 mmol) was added slowly. The reaction was warmed to 0° C. and stirred for 15 min. The reaction was recooled to −78° C., treated with dimethylformamide (12.9 mL, 166 mmol), warmed to ambient temperature, and stirred for 30 min. The reaction was quenched by slow addition of 1N hydrochloric acid (50 mL) and was then extracted with ethyl acetate (2×40 mL). The organic layers were dried (magnesium sulfate) and evaporated. The residue was purified by chromatography on silica gel with 15% ethyl acetate/hexanes. The product 5-(trifluoromethyl)-1H-indole-7-carbaldehyde (5.95 g, 27.9 mmol, 84% yield) was obtained as an orange solid. 1H-NMR (CDCl3, 400 MHz) δ 10.28 (bs, 1H), 10.16 (s, 1H), 8.20 (d, J=0.6 Hz, 1H), 7.90 (d, J=0.6 Hz), 7.45 (dd, J=3.2, 2.5 Hz, 1H), 6.72 (dd, J=3.2, 2.4 Hz, 1H).

reactant | 7-bromo-5-(trifluoromethyl)-1H-indole | 33.2 mmol, 8.77 g | BrC=1C=C(C=C2C=CNC12)C(F)(F)F | C9H5BrF3N
reactant | n-BuLi | 116 mmol, 1.6 M, 72.7 mL | [Li]CCCC
reactant | dimethylformamide | 166 mmol, 12.9 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 5-(trifluoromethyl)-1H-indole-7-carbaldehyde | 27.9 mmol, 5.95 g, 84% yield | FC(C=1C=C2C=CNC2=C(C1)C=O)(F)F | C10H6F3NO
